US04075001
A. Dibromomalononitrile-potassium bromide complex
A mixture of 99 g of malononitrile and 75 g of potassium bromide in 900 ml of water was cooled to 5°-10° and 158 ml of bromine were slowly added at 5°-10° during 21/2 hours. After addition was completed, the mixture was stirred for 2 hours at 5°-10°, then was filtered. The collected solid was washed with 150 ml of ice-water and air-dried on the filter. A second crop was obtained by filtering the filtrate after a short quiescent period. The isolated solids were combined and dried to constant weight in a desiccator over phosphorus pentoxide (the presence of bromine vapors necessitated replenishing the phosphorus pentoxide) to give 337.5 g of the complex, which was used without further purification.

reactant | malononitrile | 99 g | C(CC#N)#N | C3H2N2
reactant | potassium bromide | 75 g | [Br-].[K+]
reactant | bromine | 158 ml | BrBr | Br2
solvent | water | 900 ml | O | H2O
product | Dibromomalononitrile potassium bromide | 337.5 g | BrC(C#N)(C#N)Br.[Br-].[K+] | InChI=1S/C3Br2N2.BrH.K/c4-3(5,1-6)2-7;;/h;1H;/q;;+1/p-1
